US08314100B2
1-[(2-Methoxy-6,7-dimethylquinoxalin-3-yl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine (Compound 184)
Ethyl N-(2-methoxy-6,7-dimethylquinoxalin-3-yl)carbamate and 1-(3,5-di methoxyphenyl)piperazine were reacted by the same way with the example 183 to obtain the titled compound (yield, 75%). 1H NMR (300 MHz, CDCl3) δ 2.33 (s, 3H), 2.39 (s, 3H), 3.21-3.29 (m, 4H), 3.75 (m, 4H), 3.79 (s, 3H), 4.11-4.13 (m, 3H), 6.06 (s, 1H), 6.12 (s, 2H), 7.52 (s, 1H), 7.59 (s, 1H).

reactant | Ethyl N-(2-methoxy-6,7-dimethylquinoxalin-3-yl)carbamate | COC1=NC2=CC(=C(C=C2N=C1NC(OCC)=O)C)C | C14H17N3O3
reactant | 1-(3,5-di methoxyphenyl)piperazine | COC=1C=C(C=C(C1)OC)N1CCNCC1 | C12H18N2O2
product | 1-[(2-Methoxy-6,7-dimethylquinoxalin-3-yl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine | 75% | COC1=NC2=CC(=C(C=C2N=C1NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)OC)OC)C)C | C24H29N5O4
